US07855297B2
Ethyl 2-(4-{[N-(5-benzyloxy-1,2,3,4-tetrahydronaphthalen-1-ylcarbonyl)-N-(4-isopropylphenyl)amino]methyl}pyrazol-1-yl)acetate (1.0 g) was dissolved in tetrahydrofuran:ethanol (1:2) solution (10 mL), and lithium chloride (0.30 g) and sodium borohydride (0.27 g) were added. The mixture was stirred at room temperature for 3 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the obtained residue (0.91 g) was reacted and treated in the same manner as in Example 17 to give 5-hydroxy-N-{[1-(2-hydroxyethyl)pyrazol-4-yl]methyl}-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.25 g). melting point: 110-114° C.

reactant | Ethyl 2-(4-{[N-(5-benzyloxy-1,2,3,4-tetrahydronaphthalen-1-ylcarbonyl)-N-(4-isopropylphenyl)amino]methyl}pyrazol-1-yl)acetate | 1.0 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CC(=O)OCC | C35H39N3O4
reactant | lithium chloride | 0.30 g | [Cl-].[Li+]
reactant | sodium borohydride | 0.27 g | [BH4-].[Na+]
solvent | tetrahydrofuran ethanol | O1CCCC1.C(C)O
product | 5-hydroxy-N-{[1-(2-hydroxyethyl)pyrazol-4-yl]methyl}-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.25 g | OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC=1C=NN(C1)CCO | C26H31N3O3
